US09164384B2
Synthesis of bis(4-tert-butylphenyl)(4-fluorophenyl)-sulfonium 1,1,3,3,3-pentafluoro-2-hydroxypropane-1-sulfonate (PAG Intermediate 3)
A mixture of 13 g of benzyltrimethylammonium 1,1,3,3,3-pentafluoro-2-hydroxypropane-1-sulfonate synthesized according to the method of JP-A 2012-107151, 14 g of bis(4-tert-butylphenyl)(4-fluorophenyl)sulfonium bromide obtained in Synthesis Example 1-3, 70 g of methylene chloride, and 30 g of deionized water was stirred for 30 minutes. The organic layer was separated, washed with water, and concentrated in vacuum. MIBK (100 g) was added to the concentrate, followed by vacuum concentration again. The residue was dissolved in methanol, after which diisopropyl ether was added for recrystallization. The resulting crystals were collected by filtration and dried in vacuum, obtaining 15 g of the target compound, bis(4-tert-butylphenyl)(4-fluorophenyl)sulfonium 1,1,3,3,3-pentafluoro-2-hydroxypropane-1-sulfonate as white crystals. Yield 80%.

reactant | benzyltrimethylammonium 1,1,3,3,3-pentafluoro-2-hydroxypropane-1-sulfonate | 13 g | FC(C(C(F)(F)F)O)(S(=O)(=O)[O-])F.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | bis(4-tert-butylphenyl)(4-fluorophenyl)sulfonium bromide | 14 g | [Br-].C(C)(C)(C)C1=CC=C(C=C1)[S+](C1=CC=C(C=C1)F)C1=CC=C(C=C1)C(C)(C)C
reactant | methylene chloride | 70 g | C(Cl)Cl | CH2Cl2
solvent | water | 30 g | O | H2O
product | bis(4-tert-butylphenyl)(4-fluorophenyl)-sulfonium 1,1,3,3,3-pentafluoro-2-hydroxypropane-1-sulfonate | 15 g, Yield 80% | FC(C(C(F)(F)F)O)(S(=O)(=O)[O-])F.C(C)(C)(C)C1=CC=C(C=C1)[S+](C1=CC=C(C=C1)F)C1=CC=C(C=C1)C(C)(C)C | InChI=1S/C26H30FS.C3H3F5O4S/c1-25(2,3)19-7-13-22(14-8-19)28(24-17-11-21(27)12-18-24)23-15-9-20(10-16-23)26(4,5)6;4-2(5,6)1(9)3(7,8)13(10,11)12/h7-18H,1-6H3;1,9H,(H,10,11,12)/q+1;/p-1
